US05256824
To a suspension of (-)-N-t-butyl-4,4-diphenyl-2-cyclopentenylamine methanesulfonate (0.70 g) in ethyl acetate was added 2N sodium hydroxide aqueous solution (10 ml), and the organic layer was separated. The solution was washed with brine and hydrogenated over 10% palladium-on-carbon (0.06 g) to give (-)-N-t-butyl-3,3-diphenylcyclopentylamine (0.53 g). To a solution of (-)-N-t-butyl-3,3-diphenylcyclopentylamine (0.53 g) in chloroform was added a solution of methanesulfonic acid (174 mg) in methanol. The solvent was evaporated in vacuo and triturated with diethyl ether to give (-)-N-t-butyl-3,3-diphenylcyclopentylamine methanesulfonate (0.63 g).

reactant | (-)-N-t-butyl-4,4-diphenyl-2-cyclopentenylamine methanesulfonate | 0.70 g | CS(=O)(=O)O.C(C)(C)(C)NC1C=CC(C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (-)-N-t-butyl-3,3-diphenylcyclopentylamine | 0.53 g | C(C)(C)(C)NC1CC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H27N
